US07517875B2
After dissolving 4-amino-2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1-carboxylic acid tert-butyl ester (0.02 mmol) in tetrahydrofuran (1 ml), diisopropylcarbodiimide (0.05 mmol), 1-hydroxybenzotriazole monohydrate (0.05 mmol) and 3-acetylaminopropionic acid (0.05 mmol) were added and the mixture was stirred at room temperature overnight. After adding a 4N hydrogen chloride-1,4-dioxane solution (1 ml) to the reaction mixture, it was stirred at 50° C. for 1 hour, the solvent was removed under reduced pressure, and then dichloromethane and 5N aqueous sodium hydroxide were added to the obtained residue prior to stirring. The organic layer was passed through SCX (Bond Elute SCX500MG), and after washing the SCX with methanol, elution was performed with a 2N ammonia-methanol solution. The solvent was distilled off under reduced pressure to obtain 3-acetylamino-N-{2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-4-yl}-propionamide. The compound was identified by LC-MS.

reactant | 4-amino-2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1-carboxylic acid tert-butyl ester | 0.02 mmol | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2N)NCC2CCN(CC2)CC2=CC=CC1=CC=CC=C21 | C29H35N5O2
reactant | diisopropylcarbodiimide | 0.05 mmol | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-hydroxybenzotriazole monohydrate | 0.05 mmol | O.ON1N=NC2=C1C=CC=C2
reactant | 3-acetylaminopropionic acid | 0.05 mmol | C(C)(=O)NCCC(=O)O | C5H9NO3
reactant | hydrogen chloride-1,4-dioxane | 4N, 1 ml | O1CCOCC1.Cl
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 3-acetylamino-N-{2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-4-yl}-propionamide | C(C)(=O)NCCC(=O)NC1=CC=CC=2NC(=NC21)NCC2CCN(CC2)CC2=CC=CC1=CC=CC=C21 | C29H34N6O2
